US05721234
2-Carboxyethyl -5-nitroindane
A mixture of 2-carboxyethylindane (28.8 g, 0.15 mol) and trifluoroacetic acid (300 mL) was cooled in an ice bath and then treated with fuming nitric acid (50 mL). The reaction mixture was slowly warmed to room temperature and allowed to stir for 18 h. After removing the solvent, the residue was dissolved in an either:water mixture. The ether layer was separated and washed with water, and then saturated NaCl, and dried over magnesium sulfate. The filtrate was evaporated to give a dark syrup (34.3 gm, 3:1 ratio of isomers).

reactant | 2-carboxyethylindane | 0.15 mol, 28.8 g | C(=O)(O)CCC1CCC2=CC=CC=C12 | C12H14O2
reactant | trifluoroacetic acid | 300 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | nitric acid | 50 mL | [N+](=O)(O)[O-] | HNO3
product | 2-Carboxyethyl -5-nitroindane | C(=O)(O)CCC1CCC2=CC(=CC=C12)[N+](=O)[O-] | C12H13NO4
